US06649768B1
Synthesis of 3-(Dibromoacetyl)pyridine Hydrobromide
3-Acetylpyridine (50 g, 0.41 mol), 47% aqueous HBr solution (106.6 g, 1.5 equivalent amount relative to 3-acetylpyridine) and water (80 ml) were charged in a reaction vessel and the mixture was stirred at 55-60° C. Bromine (135.2 g, 2.05 equivalent amount relative to 3-acetylpyridine) was added dropwise and the mixture was stirred for one more hour. The mixture was cooled to 5° C. under ice-cooling, and filtered to give 146.7 g of the titled compound as crystals (yield 99.0%).

reactant | 3-Acetylpyridine | 0.41 mol, 50 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | HBr | 106.6 g, 1.5 equivalent | Br | BrH
reactant | Bromine | 135.2 g, 2.05 equivalent | BrBr | Br2
solvent | water | 80 ml | O | H2O
product | 3-(Dibromoacetyl)pyridine Hydrobromide | 146.7 g, yield 99.0% | Br.BrC(C(=O)C=1C=NC=CC1)Br | InChI=1S/C7H5Br2NO.BrH/c8-7(9)6(11)5-2-1-3-10-4-5;/h1-4,7H;1H
